US05565560
17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2"'-phenyl-2"'-oxoethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To solution of 17 ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2"'-phenyl-2"'hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (13 mg in 0.3 mL methylene chloride) was added powdered 4A molecular sieves (10 mg), 4-methylmorpholine N-oxide (6.0 mg), tetrapropylammonium perruthenate (1.0 mg) and the reaction stirred at room temperature. After 30 minutes the mixture was filtered through a small diatomaceous earth/silica gel plug and the filtrate concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol) gave the title compound (10 mg).

reactant | ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2"'-phenyl-2"'hydroxyethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.3 mL, 13 mg | C(C)C1N2C(C(C3(C(CC(C(C(CC(CC(=CCC(CC(C(C(OC(C2CCC1)=O)C(=CC1CC(C(CC1)OCC(O)C1=CC=CC=C1)OC)C)C)O[Si](C)(C)C(C)(C)C)=O)C)C)OC)O3)OC)C)O)=O)=O | C57H91NO13Si
reactant | 4-methylmorpholine N-oxide | 6.0 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | tetrapropylammonium perruthenate | 1.0 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(2"'-phenyl-2"'-oxoethyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 10 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC(=O)C2=CC=CC=C2)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H89NO13Si
